Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
environmental / pneumonia 13 vaccine
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ asthma, osteoporosis, history of BPPV, aortic stenosis,
mult prior falls with rib Fx, presents today as a transfer for
pelvic fractures. At 8 ___, patient had a fall. Patient felt like
she lost balance but not able to elaborate. Positive head strike
with no loss of consciousness. After the fall, patient 
complained
of lower back and pelvic pain. Patient was taken to ___, and found to have multiple pelvic fractures with
possible extract. Patient was sent here for orthopedic and 
trauma
evaluation. Patient currently complaining of mild lower back 
pain
and pelvic pain. Denies any numbness or weakness. Patient
otherwise denies any headaches, chest pain, shortness of breath,
belly pain, numbness or weakness.

 
Past Medical History:
osteoporosis, mod-to-severe aortic
stenosis, right breast cancer (___), asthma, BPPV, multiple
prior falls, GERD, HLD, constipation, macular degeneration

 
Social History:
___
Family History:
NC
 
Physical Exam:
Admission Physical Exam:
Vitals: T 96.6, HR 83, BP 163/63,RR 18, SPO2 93% RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses
Ext: No ___ edema, ___ warm and well perfused

DISCHARGE PHYSICAL EXAM:
VS: T: 98.6 PO BP: 130/63 HR: 76 RR: 18 O2: 94% RA 
GEN: A+Ox3, NAD 
HEENT: HEENT
CV: RRR, systolic murmur present (patient notes this has been 
present since birth)
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation
Pelvis: left pelvic pain to palpation and with movement
EXT: wwp, trace edema b/l ___, no erythema or induration 
 
Pertinent Results:
Imaging:

CT Torso, ___:
IMPRESSION:
1. Displaced comminuted fractures of the left superior and 
inferior pubic rami.  Nondisplaced fracture of the left
ilium extending into the sacroiliac joint, without evidence for 
acetabular extension.
2. Small hematoma in the left and midline anterior pelvis.  
Intramuscular hematoma expanding the left operator, which
contains small arterially enhancing blood vessels.  No clear 
evidence for active contrast extravasation is seen, but
evaluation is limited in the absence of delayed phase images.
3. Chronic healed fractures of the left seventh through eleventh 
ribs.
4. No evidence for acute abnormalities in the chest or abdomen.
5. Borderline enlarged subcarinal lymph nodes, 10-11 mm, of 
uncertain etiology.
6. Stable small to moderate hiatal hernia.

NOTIFICATION:  The following preliminary report was discussed by 
Dr. ___ with Dr. ___ on the telephone on
___ at 3:47 am, 1 minutes after discovery of the findings:

1. Acute comminuted and displaced fractures of the superior and 
inferior left pubic rami.
2. Small hematoma in the left anterior pelvis and intramuscular 
hematoma in the left obturator internus which is
asymmetrically enlarged (2:195; 196).
3. Linear hyperdensity coursing through the left obturator 
internus intramuscular hematoma may be a small vessel,
however active extravasation cannot be excluded (2:200; 601:72).
4. Left posterior rib fractures are chronic in appearance.

Pelvic x-ray, ___:
IMPRESSION:  Comminuted fractures of the left superior pubic 
ramus and ischiopubic ramus, with inferior displacement of
the medial fracture fragments.

CT C-spine, ___
IMPRESSION:
1. No evidence of fracture.
2. Mild anterolisthesis of C7 on T1 and minimal anterolisthesis 
of T1 on T2 due to degenerative disease.  No
prevertebral edema to suggest acute injury.

CT Head, ___:
FINDINGS:  There is no evidence of infarction, hemorrhage, 
edema, or mass.  There is prominence of the ventricles and
sulci suggestive of involutional changes.  There are 
atherosclerotic calcifications the bilateral cavernous carotids.

There is no evidence of fracture.  The visualized portion of the 
paranasal sinuses, mastoid air cells, and middle ear
cavities are clear.  Patient is status post bilateral lens 
replacement.  The visualized portion of the orbits are
otherwise unremarkable.

IMPRESSION:  No fracture, hemorrhage, mass or infarction.

LABS:

___ 12:43PM   GLUCOSE-110* UREA N-18 CREAT-0.6 SODIUM-140 
POTASSIUM-4.6 CHLORIDE-102 TOTAL CO2-27 ANION GAP-11
___ 12:43PM   CALCIUM-9.8 PHOSPHATE-3.5 MAGNESIUM-2.1
___ 12:43PM   WBC-7.6 RBC-3.64* HGB-11.6 HCT-36.0 MCV-99* 
MCH-31.9 MCHC-32.2 RDW-13.9 RDWSD-50.7*
___ 12:43PM   PLT COUNT-187
___ 12:43PM   ___ PTT-26.4 ___
___ 06:48AM   K+-5.4
___ 04:30AM   GLUCOSE-102* UREA N-21* CREAT-0.6 SODIUM-135 
POTASSIUM-5.5* CHLORIDE-100 TOTAL CO2-24 ANION GAP-11
___ 04:30AM   CALCIUM-9.4 PHOSPHATE-3.7 MAGNESIUM-2.0
___ 04:30AM   WBC-14.3* RBC-3.72* HGB-11.9 HCT-36.9 MCV-99* 
MCH-32.0 MCHC-32.2 RDW-13.9 RDWSD-50.9*
___:30AM   NEUTS-84.3* LYMPHS-7.8* MONOS-5.7 EOS-0.9* 
BASOS-0.3 IM ___ AbsNeut-12.___* AbsLymp-1.11* 
AbsMono-0.81* AbsEos-0.13 AbsBaso-0.04
___ 04:30AM   PLT COUNT-199
___ 04:30AM   ___ PTT-26.4 ___
___ 04:30AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 04:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.5 
LEUK-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ yo F history of osteoporosis, moderate to 
severe aortic stenosis, right breast cancer, asthma, falls, 
hypertension, who was transferred to ___ after a fall 
sustaining multiple pelvic fractures with possible 
extravasation. Upon arrival she was hemodynamically stable and 
reporting lower back and pelvic pain. Orthopedic surgery was 
consulted for lateral compression type I fracture with evidence 
of hematoma. The fracture was determined to be stable, not 
requiring surgical intervention, and her hemoglobin and 
hematocrit remained stable over 24 hours. 

Neuro: Pain was assessed and she was given standing Tylenol and 
Tramadol with good effect.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: The patient was given a regular diet, which was well 
tolerated. Patient's intake and output were closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: Once the patient had stable hemoglobin/hematocrits 
for 24 hours, heparin subcutaneous and ___ dyne boots were 
implemented. 

The patient was seen and evaluated by physical therapy who 
recommended discharge to an acute physical rehab facility.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
out of bed with assist, voiding without assistance, and pain was 
well controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
2. LORazepam 0.5 mg PO QHS:PRN Insomnia 
3. PreserVision AREDS (vitamins  A,C,E-zinc-copper) 
___ unit-mg-unit oral DAILY 
4. Vitamin D 400 UNIT PO Q8H 
5. Benefiber Healthy Shape (wheat dextrin) 5 gram/7.4 gram oral 
Q8H 
6. Calcium Carbonate 500 mg PO Q8H 
7. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
8. Naproxen 250 mg PO Q8H:PRN Pain - Severe 
9. Montelukast 10 mg PO DAILY 
10. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
11. Albuterol Inhaler ___ PUFF IH Q4H:PRN Wheezing 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Lidocaine 5% Patch 1 PTCH TD QAM  
3.  Senna 17.2 mg PO BID:PRN Constipation - First Line  
4.  TraMADol 25 mg PO Q6H:PRN Pain - Moderate  
5.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
6.  Albuterol Inhaler ___ PUFF IH Q4H:PRN Wheezing  
7.  Benefiber Healthy Shape (wheat dextrin) 5 gram/7.4 gram oral 
Q8H  
8.  Calcium Carbonate 500 mg PO Q8H  
9.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
10.  Montelukast 10 mg PO DAILY  
11.  Naproxen 250 mg PO Q8H:PRN Pain - Severe  
12.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
13.  PreserVision AREDS (vitamins  A,C,E-zinc-copper) 
___ unit-mg-unit oral DAILY  
14.  Vitamin D 400 UNIT PO Q8H  
15. HELD- LORazepam 0.5 mg PO QHS:PRN Insomnia  This medication 
was held. Do not restart LORazepam until you discuss with PCP.

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Frequent Fall

-Comminuted superior and inferior left-sided pubic rami 
fractures with concomitant pelvic hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Surgery Service on ___ 
with left-sided pelvic fractures after a fall. You had a CT scan 
that showed some bleeding in your pelvis near the fractures. You 
blood levels were closely watched and remained stable which 
means that the bleeding stopped on its own. You were seen and 
evaluated by the physical therapists who recommended that you go 
to a physical rehab center to continue your recovery. Please 
note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
 
Followup Instructions:
___